US04883797
(a) 1-Benzhydryl-4-(2-(1-piperidinylmethyl)-2-propenyl)piperazine (Compound 6)
A mixture of 7.0 g of 1-benzhydryl-4-(2-chloromethyl-2-propenyl)-piperazine (0.0205 mole) and 6.98 g of piperidine (0.082 mole) in 150 ml of absolute ethanol is heated until it has dissolved completely, and subjected to reflux for 3 hours. Then, it is conditioned to room temperature and the ethanol is removed by distillation. The resulting crude reaction product is treated with distilled water several times until a solid material is obtained which is then filtered and washed abundantly with water. By recrystallization from ethanol, 7.4 g crystals of 1-benzhydryl-4-(2-(1-piperidinylmethyl)-2-propenyl)-piperazine (I, R1 =benzhydryl, R2 =2-(1-piperidinylmethyl-2-propenyl) are obtained. Yield: 94%; m.p. 99°-102° C.

reactant | 1-benzhydryl-4-(2-chloromethyl-2-propenyl)-piperazine | 0.0205 mole, 7.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC(=C)CCl | C21H25ClN2
reactant | piperidine | 0.082 mole, 6.98 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-Benzhydryl-4-(2-(1-piperidinylmethyl)-2-propenyl)piperazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC(=C)CN1CCCCC1 | C26H35N3
